US03975384
6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine
12 gm (0.037 mol) of 6-ethoxy-2-chloro-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine were stirred together with 22 gm (0.28 mol) of piperazine in ethanol at 40°C for 2 hours. Then, the reaction mixture was poured into water, and the precipitate formed thereby was suction-filtered off and recrystallized from ethanol. Yield: 13 gm (93.8% of theory); m.p. 223°-224°C.

reactant | 6-ethoxy-2-chloro-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine | 0.037 mol, 12 gm | C(C)OC1=C(C(=NC(=N1)Cl)N1CCS(CC1)=O)[N+](=O)[O-] | C10H13ClN4O4S
reactant | piperazine | 0.28 mol, 22 gm | N1CCNCC1 | C4H10N2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine | C(C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)=O)[N+](=O)[O-] | C14H22N6O4S
